US08168668B2
23) 6-tert-butyl-2-methoxynicotinonitrile
The title compound was synthesized according to the procedure described for the synthesis of 6-tert-butylnicotinonitrile starting from 2-methoxynicotinonitrile (8.02 g, 5.98 mmol), pivalic acid (3.05 g, 39.9 mmol), AgNO3 (0.13 g, 0.78 mmol), (NH4)2S2O8 (1.78 g, 7.78 mmol) and 6 ml 10% H2SO4. Purified by normal phase chromatography using 95/5 to 90/10 heptane/ethyl acetate. (Yield: 80 mg, 7%). 1H NMR (400 MHz, CDCl3) δ ppm 1.33 (s, 9 H), 4.04 (s, 3 H), 6.97 (d, J=7.81 Hz, 2 H), 7.78 (d, J=7.81 Hz, 2 H).

reactant | 6-tert-butylnicotinonitrile | C(C)(C)(C)C1=NC=C(C#N)C=C1 | C10H12N2
reactant | 2-methoxynicotinonitrile | 5.98 mmol, 8.02 g | COC1=C(C#N)C=CC=N1 | C7H6N2O
reactant | pivalic acid | 39.9 mmol, 3.05 g | C(C(C)(C)C)(=O)O | C5H10O2
reactant | H2SO4 | 6 ml | OS(=O)(=O)O | H2O4S
catalyst | AgNO3 | 0.78 mmol, 0.13 g | [N+](=O)([O-])[O-].[Ag+]
product | 6-tert-butyl-2-methoxynicotinonitrile | C(C)(C)(C)C1=NC(=C(C#N)C=C1)OC | C11H14N2O
